US06900215B2
Methyl 2,2-dimethylacetoacetate was converted to 5,5-diethoxy-2,2-dimethyl-3-oxopentanoic acid methyl ester as outlined in Example 3, then condensed with 2-aminoimidazole hemisulfate following the procedure in Example 2, to give 2-(imidazo[1,2-α]pyrimidin-7-yl)-2-methylpropionic acid methyl ester as a brown oil: δH (360 MHz, CDCl3) 1.67 (6H, s), 3.70 (3H, s), 6.85 (1H, d, J 7), 7.48 (1H, d, J 1), 7.76 (1H, d, J 1), 8.34 (1H, d, J 7).

reactant | Methyl 2,2-dimethylacetoacetate | CC(C(=O)OC)(C(=O)C)C | C7H12O3
reactant | 5,5-diethoxy-2,2-dimethyl-3-oxopentanoic acid methyl ester | COC(C(C(CC(OCC)OCC)=O)(C)C)=O | C12H22O5
reactant | 2-aminoimidazole hemisulfate | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
product | 2-(imidazo[1,2-α]pyrimidin-7-yl)-2-methylpropionic acid methyl ester | COC(C(C)(C)C1=NC=2N(C=C1)C=CN2)=O | C11H13N3O2
